US07741318B2
(prepared according to an analogous procedure described in U.S. Pat. No. 5,755,873) Step A: Pyrrolidine (16 ml, 0.1925 mol) was dissolved in acetone (40 ml) and cooled to 0° C.; 4-acetylaminobenzenesulfonyl chloride (15 g, 0.065 mol) was added over 10 min. Additional acetone (13 ml) was added and the mixture was heated at reflux for 2 h. After cooling to rt, the mixture was added to water (350 ml) and the resulting precipitate collected by filtration, the precipitate was washed with water until the washings were at pH 7. The solid was dried under vacuum to give 8.1 g of N-[4-(pyrrolidine-1-sulfonyl)phenyl]acetamide. Step B: The compound from step A (8.1 g) was suspended in water (37.5 ml) and treated with concentrated HCl (19 ml). The mixture was heated at reflux for 1 h. After cooling to rt, NH4OH (23 ml) was added with stirring. The resulting precipitate was collected by filtration and washed with water until the washings were pH 7. The solid was dried to give 6.0 g of 4-(pyrrolidine-1-sulfonyl)phenylamine. 1H NMR (DMSO) δ 7.40 (d, J=8.8 Hz, 2H), 6.62 (d, J=8.8 Hz, 2H), 6.02 (s, 2H), 3.03 (m, 4H), 1.61 (m, 4H).

reactant | Pyrrolidine | 0.1925 mol, 16 ml | N1CCCC1 | C4H9N
reactant | 4-acetylaminobenzenesulfonyl chloride | 0.065 mol, 15 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | water | 350 ml | O | H2O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | acetone | 13 ml | CC(=O)C | C3H6O
product | N-[4-(pyrrolidine-1-sulfonyl)phenyl]acetamide | 8.1 g | N1(CCCC1)S(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C12H16N2O3S
